data/oMe_Silver.jsonl
{"reaction_id": "NR-203_1-c1ccc(C(F)(F)F)cc1_2-c1ccc2ccccc2c1","level": "medium","name": "Nef Reaction","reactants_smiles": ["C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)([N+](=O)[O-])"],"products_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)"],"conditions": "H3O+","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)=N([O-])=O","step_weight": 0,"rationale": "Protonation of the nitro group oxygen increases electrophilicity of nitrogen, facilitating tautomerization to the nitronic acid form under acidic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)=[N+]([O-])O","step_weight": 0,"rationale": "Further proton transfer stabilizes the nitronic acid tautomer by delocalizing positive charge onto nitrogen, making it more susceptible to nucleophilic attack."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)=[N+](O)O","step_weight": 0,"rationale": "Protonation of the hydroxyl oxygen enhances the leaving ability of water in later steps and increases the electrophilicity of the nitrogen center."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)([NH+](O)O)[OH2+]","step_weight": 0,"rationale": "Water, abundant in acidic medium, attacks the electrophilic nitrogen-carbon center, driven by the positive charge and resonance stabilization of the intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)([NH+](O)O)[OH]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to the nitronic hydroxyl group prepares for elimination by generating a better leaving group."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[OH+]=C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Elimination of the protonated hydroxylamine fragment occurs because water is a good leaving group under acidic conditions, forming an oxonium ion intermediate."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(C(F)(F)F)cc1)(c1ccc2ccccc2c1)","step_weight": 0,"rationale": "Loss of a proton from the oxonium ion yields the neutral carbonyl product, driven by the thermodynamic stability of the C=O bond."}],"description": "Under acidic conditions, the nitro group of the nitroalkane is sequentially protonated and rearranged to form a nitronic acid, which undergoes hydration and elimination steps. Proton transfers and good leaving group formation drive the conversion to the corresponding carbonyl compound."}
{"reaction_id": "NR-149_1-c1ccccc1_2-C(C)(C)C","name": "Myers Asymmetric Alkylation","level": "medium","reactants_smiles": ["c1ccccc1CC(=O)N(C)C(C)C(O)c1ccccc1","BrC(C)(C)C"],"products_smiles": ["C(C)(C)CC(c1ccccc1)C(=O)N(C)C(C)C(O)c1ccccc1"],"conditions": "LDA","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1/C=C(\\[O-])/N(C)C(C)C([O-])c1ccccc1","rationale": "LDA, a strong non-nucleophilic base, selectively deprotonates the α-position due to acidity enhanced by resonance stabilization of the enolate through the carbonyl and auxiliary."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)(C)CC(c1ccccc1)C(=O)N(C)C(C)C([O-])c1ccccc1","rationale": "The enolate acts as a strong nucleophile, attacking the electrophilic carbon of the alkyl bromide in an SN2 process, favored by the good leaving ability of bromide and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC(c1ccccc1)C(=O)N(C)C(C)C(O)c1ccccc1","rationale": "The alkoxide intermediate is protonated under workup conditions, restoring the neutral alcohol and completing the formation of the alkylated product."}],"description": "Under strong base (LDA), the Myers auxiliary amide undergoes deprotonation to form a stabilized enolate, which then performs an SN2 alkylation with the alkyl bromide. Final protonation yields the chiral alkylated product with high stereocontrol from the auxiliary."}
